US06043248
3-Hydroxymethyl-5,6,7,8-tetrahydroisoquinoline (1.73 g, 10.6 mmole) is dissolved in 30 ml dioxane in a 100 ml one neck round bottom flask under nitrogen. The solution is treated with selenium dioxide (647 mg, 5.8 mmole) and the reaction mixture is warmed to 80-85° C. for 1.5 h. The mixture is cooled to room temperature, is diluted with 30 ml dichloromethane and is filtered through celite. The filter cake is washed well with fresh dichloromethane and the filtrate is concentrated in vacuo to a dark amber oil. The crude material is chromatographed through a 25 g plug of silica gel (230-400 mesh), eluting with 20% acetone/hexane while collecting 50 ml fractions. Fractions 1-3 are combined and concentrated to give 1.20 g (70%) of 5,6,7,8,-tetrahydroisoquinoline-3-carbaldehyde.

reactant | 3-Hydroxymethyl-5,6,7,8-tetrahydroisoquinoline | 10.6 mmole, 1.73 g | OCC=1N=CC=2CCCCC2C1 | C10H13NO
reactant | selenium dioxide | 5.8 mmole, 647 mg | [Se](=O)=O | O2Se
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5,6,7,8,-tetrahydroisoquinoline-3-carbaldehyde | 1.20 g, 70% | C1=NC(=CC=2CCCCC12)C=O | C10H11NO
